US05342846
N,N,N-Trimethyl-N-(2-hydroxyethyl)-ammonium-1-cyclopropyl -6,8-difluoro-7-[3-(1,2,4-triazol-1-yl)pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylate
To a suspension of 100.25 mg (0.25 mmol) of 1-cyclopropyl-6,8-difluoro-7-[3-(1,2,4-triazol-1-yl) pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid in 0.625 ml of methanol and 0.2 ml of water was added at room temperature slowly 0.075 ml of 45% choline in methanol. The solution was stirred at room temperature for an additional hour and after being through a cotton filter, the supernatant was evaporated to dryness under reduced pressure (30° C.). The residue was crystallized from acetone-methanol and dried to give 85 mg of off white solid, m.p. 193°-194° C. 1H NMR (CD3OD) δ: 8.61 (s, 1H), 8.42 (bs, 1H), 8.01 (s, 1H), 7.76 (dd, 14Hz, 1.8Hz, 1H), 5.3-5.15 (m, 1H), 4.3-3.75 (m, 7H), 3.5-3.44 (m, 2H), 3.21 (s, 9H), 2.62-2.45 (m, 2H), 1.22-1.02 (m, 4H). Anal. calcd. for C24H30F2N6O4H2O: C, 55.16; H, 6.13; N, 16.07. Found: C, 54.46; H, 5.91; N, 15.82.

reactant | 1-cyclopropyl-6,8-difluoro-7-[3-(1,2,4-triazol-1-yl) pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.25 mmol, 100.25 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(CC1)N1N=CN=C1)F)=O)C(=O)O | C19H17F2N5O3
reactant | choline | 0.075 ml | OCC[N+](C)(C)C
solvent | methanol | 0.625 ml | CO | CH4O
solvent | water | 0.2 ml | O | H2O
product | N,N,N-Trimethyl-N-(2-hydroxyethyl)-ammonium 1-cyclopropyl -6,8-difluoro-7-[3-(1,2,4-triazol-1-yl)pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylate | C[N+](CCO)(C)C.C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(CC1)N1N=CN=C1)F)=O)C(=O)[O-] | InChI=1S/C19H17F2N5O3.C5H14NO/c20-14-5-12-16(25(10-1-2-10)7-13(18(12)27)19(28)29)15(21)17(14)24-4-3-11(6-24)26-9-22-8-23-26;1-6(2,3)4-5-7/h5,7-11H,1-4,6H2,(H,28,29);7H,4-5H2,1-3H3/q;+1/p-1
